US08633189B2
A solution of methyl 5-nitro-2-(trifluoromethoxy)phenyl carbonate (120 mg, 0.43 mmol) in ethyl acetate (10 mL) was stirred in presence of 10% Pd/C (45 mg) under H2 atmosphere for 4 h. The reaction was filtered through a pad of Celite and concentrated in vacuo to provide 5-amino-2-(trifluoromethoxy)phenyl methyl carbonate (90 mg, 84% yield). 1H NMR (400.0 MHz, CDCl3) δ 7.09 (dd, J=1.1, 8.7 Hz, 1H), 6.54 (d, J=2.7 Hz, 1H), 6.51 (dd, J=2.8, 8.7 Hz, 1H), 3.91 (s, 3H), 3.80 (br s, 2H).

reactant | methyl 5-nitro-2-(trifluoromethoxy)phenyl carbonate | 0.43 mmol, 120 mg | C(OC)(OC1=C(C=CC(=C1)[N+](=O)[O-])OC(F)(F)F)=O | C9H6F3NO6
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 45 mg | [Pd] | Pd
product | 5-amino-2-(trifluoromethoxy)phenyl methyl carbonate | 90 mg, 84% yield | C(OC1=C(C=CC(=C1)N)OC(F)(F)F)(OC)=O | C9H8F3NO4
